US05008426
9. 6-(3,5-Dimethylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide
67.4 g (0.4 mol) of 3,5-dimethylbenzoyl chloride were warmed to 80° C. under a nitrogen atmosphere. 92 g (0.4 mol) of 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin were added dropwise while stirring. The temperature during the addition was increased in steps to 115° C. When the reaction was complete, 50 ml of acetone were added at room temperature. After crystallization, 113 g (81% of theory) of the abovementioned compound of melting point 120° to 124° C. were obtained.

reactant | 3,5-dimethylbenzoyl chloride | 0.4 mol, 67.4 g | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
reactant | 6-methoxy-(6H)-dibenz[c,e][1,2]oxaphosphorin | 0.4 mol, 92 g | COP1OC2=C(C3=C1C=CC=C3)C=CC=C2 | C13H11O2P
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 6-(3,5-Dimethylbenzoyl)-(6H)-dibenz[c,e][1,2]oxaphosphorin 6-oxide | CC=1C=C(C(=O)P2(OC3=C(C4=C2C=CC=C4)C=CC=C3)=O)C=C(C1)C | C21H17O3P
